US07763610B2
ethyl 4-(4-methoxy-4-oxobutyl)-8-{[4-(4-phenylbutoxy)benzyl]amino}-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate
Ethyl 8-amino-4-(4-methoxy-4-oxobutyl)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate (80 mg; prepared by subjecting the compound prepared in Example 3 to the same procedure as described in Example 29) and 4-(4-phenylbutoxy)benzaldehyde (60 mg) were dissolved in 1,2-dichloroethane (4 mL), and to this solution was added sodium triacetoxyborohydride (96 mg) with ice cooling, and the mixture was stirred for 2 hours at room temperature. To the reaction mixture was added water and the resulting mixture was extracted with ethyl acetate. The extract was washed sequentially with a saturated aqueous solution of sodium bicarbonate and saturated brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=8:2) to give the title compound (121 mg) having the following physical data.

reactant | Ethyl 8-amino-4-(4-methoxy-4-oxobutyl)-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate | NC1=CC=CC=2N(CC(OC21)C(=O)OCC)CCCC(=O)OC | C16H22N2O5
reactant | 4-(4-phenylbutoxy)benzaldehyde | 60 mg | C1(=CC=CC=C1)CCCCOC1=CC=C(C=O)C=C1 | C17H18O2
reactant | sodium triacetoxyborohydride | 96 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | ethyl 4-(4-methoxy-4-oxobutyl)-8-{[4-(4-phenylbutoxy)benzyl]amino}-3,4-dihydro-2H-1,4-benzoxazine-2-carboxylate | 121 mg | COC(CCCN1CC(OC2=C1C=CC=C2NCC2=CC=C(C=C2)OCCCCC2=CC=CC=C2)C(=O)OCC)=O | C33H40N2O6
